US09163027B2
2-[(3-{5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}propyl)(4-fluorophenyl)amino]ethyl acetate
A mixture of 3,5-heptanedione (18.8 mg, 0.147 mmol), 2-{[3-(5-amino-1H-1,2,4-triazol-3-yl)propyl](4-fluorophenyl)amino}ethan-1-ol (50 mg, 0.179 mmol), and glacial acetic acid (1 mL) was added to a 50 mL RBF with a magnetic stirring bar. The flask was fitted with a condenser, and warmed in an oil bath to a gentle reflux at 135° C. for 18 h. Progress of the reaction was monitored by analytical HPLC with UV detection (Rt=5.5 min). The mixture was added to stirring ice/water (15 mL), and the pH was adjusted to basic with 1 N sodium hydroxide. The aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude material was purified by silica gel chromatography using a gradient elution of 65-100% ethyl acetate in hexanes. The material was concentrated under reduced pressure and the title compound was obtained (20 mg, 37%). EM (calc.): 413.2; MS (ESI) m/e: 414.2 (M+H)+. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.11 (s, 1H), 6.97 (m, 2H), 6.75 (m, 2H), 4.12 (t, 2H), 3.54 (t, 2H), 3.40 (t, 2H), 3.10 (q, 2H), 2.88 (m, 4H), 1.99 (m, 2H), 1.95 (s, 3H), 1.35 (t, 3H), 1.28 (t, 3H).

reactant | 3,5-heptanedione | 0.147 mmol, 18.8 mg | CCC(CC(CC)=O)=O | C7H12O2
reactant | 2-{[3-(5-amino-1H-1,2,4-triazol-3-yl)propyl](4-fluorophenyl)amino}ethan-1-ol | 0.179 mmol, 50 mg | NC1=NC(=NN1)CCCN(CCO)C1=CC=C(C=C1)F | C13H18FN5O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-[(3-{5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}propyl)(4-fluorophenyl)amino]ethyl acetate | C(C)(=O)OCCN(C1=CC=C(C=C1)F)CCCC1=NN2C(N=C(C=C2CC)CC)=N1 | C22H28FN5O2
